US09056865B2
Step 1: Tert-butyl 1-(5′-chloro-3′-fluoro-3,5-dimethyl-2,4′-bipyridin-2′-yl)piperidin-4-ylcarbamate
A cooled (0° C.), stirred suspension of tert-butyl (1-(5′-chloro-3,5-dimethyl-[2,4′-bipyridin]-2′-yl)piperidin-4-yl)carbamate (550 mg, 1.32 mmol) in acetonitrile (13 mL) was treated with Selectfluor® (827 mg, 2.24 mmol) portionwise. A light yellow solution was obtained and stirring was continued for 2 h. LC-MS showed the reaction was ˜70% complete. The reaction was quenched with water at this point to avoid more by-product formation. EtOAc was added and layers were separated. The aqueous layer was extracted with EtOAc (2×). The organic extract was dried over sodium sulfate and concentrated to give the crude product, which was purified on ISCO separation system with a 12-gram column using 0-40% EtOAc in heptane to afford 164 mg (29%) of white foam: LRMS (M+H)+: 435.1; 1H NMR (400 MHz, CDCl3) δ 1.43-1.50 (m, 11 H), 2.03 (d, J=12.13 Hz, 2 H), 2.14 (s, 3 H), 2.39 (s, 3 H), 2.90-3.12 (m, 2 H), 3.69 (br. s., 1 H), 3.87-4.08 (m, 2 H), 4.48 (br. s., 1 H), 7.46 (s, 1 H), 8.09 (s, 1 H), 8.40 (s, 1 H).

reactant | tert-butyl (1-(5′-chloro-3,5-dimethyl-[2,4′-bipyridin]-2′-yl)piperidin-4-yl)carbamate | 1.32 mmol, 550 mg | ClC=1C(=CC(=NC1)N1CCC(CC1)NC(OC(C)(C)C)=O)C1=NC=C(C=C1C)C | C22H29ClN4O2
reactant | Selectfluor | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | acetonitrile | 13 mL | C(C)#N | C2H3N
product | Tert-butyl 1-(5′-chloro-3′-fluoro-3,5-dimethyl-2,4′-bipyridin-2′-yl)piperidin-4-ylcarbamate | 164 mg, 29% | ClC=1C(=C(C(=NC1)N1CCC(CC1)NC(OC(C)(C)C)=O)F)C1=NC=C(C=C1C)C | C22H28ClFN4O2
